US08748415B2
Preparation of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-(carboxymethyl)ureido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid
4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-(2-ethoxy-2-oxoethyl)ureido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid (7 mg, 10.40 mmol) was dissolved in dioxane (2 ml). Sodium hydroxide solution, 1N (0.021 ml, 0.021 mmol) was added. The mixture was stirred at 70° C. for 2 h. The solvent was evaporated and the residue was purified by prep. HPLC to afford the title compound as a white solid (4 mg, 32.8%). LCMS: m/e 645.3 (MH+), 2.58 min (method 3). 1H NMR (400 MHz, MeOD) δ ppm 7.90 (m, J=8.3 Hz, 2H), 7.20 (m, J=8.3 Hz, 2H), 5.21-5.36 (m, 1H), 4.70 (d, J=1.8 Hz, 1H), 4.57 (s, 1H), 3.83 (s, 2H), 3.44 (d, J=13.8 Hz, 1H), 2.95 (d, J=13.6 Hz, 1H), 2.38-2.60 (m, 1H), 2.13 (dd, J=17.1, 6.5 Hz, 1H), 1.93-2.08 (m, 1H), 1.76-1.93 (m, 2H), 1.60-1.76 (m, 8H), 1.40-1.60 (m, 6H), 1.35-1.40 (m, 1H), 1.29-1.35 (m, 1H), 1.18-1.29 (m, 3H), 1.16 (s, 3H), 1.05-1.13 (m, 2H), 1.03 (s, 3H), 1.02 (s, 3H), 0.97 (s, 3H), 0.92 (s, 3H).

reactant | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-(2-ethoxy-2-oxoethyl)ureido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 10.40 mmol, 7 mg | C(C)OC(CNC(NC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C)=O)=O | C42H60N2O5
reactant | Sodium hydroxide | [OH-].[Na+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-(carboxymethyl)ureido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 4 mg, 32.8% | C(=O)(O)CNC(NC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C)=O | C40H56N2O5
